US07342115B2
A solution of (S)-[4-[3-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-butyl]-6-(2,6-diethyl-phenyl)-2-methyl-pyridin-3-ylmethyl]-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine (120 mg, 0.20 mmol) in THF (8 mL) is treated with tetrabutylammonium fluoride (1.6 mL of 1M solution in THF, 1.6 mmol) at 0° C. The mixture is stirred for 24 hours at room temperature. Aqueous work-up followed by purification by PTLC yields (S)-4-(6-(2,6-Diethyl-phenyl)-2-methyl-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-2-methyl-butan-2-ol as a colorless oil. 1H NMR (CDCl3) 7.65-7.62 (m, 1H), 7.26 (dd, 1H), 7.18-7.06 (m, 5H), 6.96 (s, 1H), 4.02-3.97 (m, 1H), 3.88 (s, 2H), 2.99-2.93 (m, 2H), 2.84-2.2.72 (m, 2H), 2.74 (s, 3H), 2.53 (br s, 1H), 2.39-2.31 (m, 4H), 2.14-2.1.95 (m, 2H), 2.08 (s, 3H), 1.92-1.73 (m, 4H, 1.30 (s, 6H), 1.05 (t, 6H).

reactant | (S)-[4-[3-(tert-Butyl-dimethyl-silanyloxy)-3-methyl-butyl]-6-(2,6-diethyl-phenyl)-2-methyl-pyridin-3-ylmethyl]-methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amine | 0.20 mmol, 120 mg | C(C)(C)(C)[Si](OC(CCC1=C(C(=NC(=C1)C1=C(C=CC=C1CC)CC)C)CN([C@H]1CCCC2=CC=CC=C12)C)(C)C)(C)C | C39H58N2OSi
reactant | tetrabutylammonium fluoride | 1.6 mmol, 1M, 1.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (S)-4-(6-(2,6-Diethyl-phenyl)-2-methyl-3-{[methyl-(1,2,3,4-tetrahydro-naphthalen-1-yl)-amino]-methyl}-pyridin-4-yl)-2-methyl-butan-2-ol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C(=N1)C)CN([C@H]1CCCC2=CC=CC=C12)C)CCC(C)(O)C | C33H44N2O
